US07951822B2
e) Preparation of 1,1,1,3,3,3-hexafluoro-2-[4-(methoxymethoxy)-3-propyl-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl]propan-2-ol
Under an argon atmosphere, n-butyl lithium (1.58 mol/L hexane solution 1.55 mL, 2.45 mmol) was dropped at −78° C. into a solution of 2-(6-bromo-3-(methoxymethoxy)-2-propylbenzyloxy)tetrahydro-2H-pyrane (725 mg, 1.75 mmol) in tetrahydrofuran (8 mL). The mixture was stirred at the same temperature for 15 minutes and then stirred at the elevated temperature of −45° C. for 1.5 hours. A tetrahydrofuran (4 mL) solution of hexafluoroacetone was dropped at −78° C., and the mixture was stirred at 0° C. for 5 hours and then stirred at room temperature for 12 hours. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated in vacuum. The residue was purified by silica-gel column chromatography (hexane/ethyl acetate), and the title compound (728 mg, 90%) was obtained as colorless oil.

reactant | n-butyl lithium | 2.45 mmol, 1.58 mol/L, 1.55 mL | C(CCC)[Li]
reactant | 2-(6-bromo-3-(methoxymethoxy)-2-propylbenzyloxy)tetrahydro-2H-pyrane | 1.75 mmol, 725 mg | BrC1=CC=C(C(=C1COC1OCCCC1)CCC)OCOC | C17H25BrO4
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | water | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1,1,1,3,3,3-hexafluoro-2-[4-(methoxymethoxy)-3-propyl-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl]propan-2-ol | 728 mg, 90% | FC(C(C(F)(F)F)(O)C1=C(C(=C(C=C1)OCOC)CCC)COC1OCCCC1)(F)F | C20H26F6O5
